US08492559B2
Stage 1: tert-Butyl 2-(6-nitro-1H-indol-1-yl)acetate
NaH (4.5 mmol, 1.5 equiv.) was suspended in DMF (5 ml), and 6-nitro-indole (3 mmol, 1 equiv.), dissolved in DMF (5 ml), was added at 0° C. The mixture was stirred for 30 min. Then tert-butyl bromoacetate (3.6 mmol, 1.2 equiv.) was added and the mixture was stirred for 15 h at 25° C. The reaction mixture was hydrolysed with ammonium chloride and extracted with ethyl acetate (3×20 ml). The combined organic phases were washed with water and sat. NaCl solution (in each case 20 ml), dried over Na2SO4 and concentrated under reduced pressure. The crude product was purified by column chromatography. Yield: 47%

reactant | NaH | 4.5 mmol, 1.5 equiv. | [H-].[Na+]
reactant | 6-nitro-indole | 3 mmol, 1 equiv. | [N+](=O)([O-])C1=CC=C2C=CNC2=C1 | C8H6N2O2
reactant | tert-butyl bromoacetate | 3.6 mmol, 1.2 equiv. | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | tert-Butyl 2-(6-nitro-1H-indol-1-yl)acetate | Yield: 47% | [N+](=O)([O-])C1=CC=C2C=CN(C2=C1)CC(=O)OC(C)(C)C | C14H16N2O4
